US06130228
7-Amino-5, 6-dihydro-3-chlorobenz-[c]-acridine (5)
2-amino-1-cyano-benzene (5.0 g, 42.3 mmol), 6-chloro-3, 4-dihydro-[2H]-napthalen-1-one (Organon Laboratories) (8.8 g, 48.7 mmol) and boron trifluoride diethyl etherate (1M, 6.4 ml, 52.4 mmol) were treated according to the general procedure described herein to give the title compound.

reactant | 2-amino-1-cyano-benzene | 42.3 mmol, 5.0 g | NC1=C(C=CC=C1)C#N | C7H6N2
reactant | 6-chloro-3, 4-dihydro-[2H]-napthalen-1-one | 48.7 mmol, 8.8 g | ClC=1C=C2CCCC(C2=CC1)=O | C10H9ClO
reactant | boron trifluoride diethyl etherate | 52.4 mmol, 1M, 6.4 ml | B(F)(F)F.CCOCC
product | 7-Amino-5, 6-dihydro-3-chlorobenz-[c]-acridine | NC1=C2C=CC=CC2=NC=2C3=C(CCC12)C=C(C=C3)Cl | C17H13ClN2
